US09024027B2
A solution of 2-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetic acid (220 mg, 0.597 mmol), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (228 mg, 0.543 mmol), EDC (312 mg, 1.629 mmol) and DMAP (66.3 mg, 0.543 mmol) in dry DCM (10 ml), under nitrogen, was stirred at room temperature for 24 hours. The mixture was washed with aqueous 5% citric acid, with water and then with brine; the organic phase was dried over Na2SO4 and evaporated to dryness. The crude was purified by flash chromatography on silica gel (DCM:ethyl acetate=6:4) to give (S)-4-(2-(2-(3-(N-(tert-butoxycarbonyl)-methylsulfonamido)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (297 mg, 0.385 mmol, 71% yield). MS/ESI+ 770.0 [MH]+.

reactant | 2-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetic acid | 0.597 mmol, 220 mg | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=CN(C2=CC=CC=C12)CC(=O)O | C16H20N2O6S
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.543 mmol, 228 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 1.629 mmol, 312 mg
catalyst | DMAP | 0.543 mmol, 66.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (S)-4-(2-(2-(3-(N-(tert-butoxycarbonyl)-methylsulfonamido)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.385 mmol, 297 mg, 71% yield | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=CN(C2=CC=CC=C12)CC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C34H35Cl2F2N3O9S
